US05306718
(c) O-(2,5-Hexadiynyl)hydroxylamine hydrochloride
Methyl hydrazine (2 mL, 37.6 mmol) was added dropwise to a solution of N-(2,5-hexadiynyl)oxyphthalimide (9 g, 37.6 mmol) in 75 mL of dichloromethane and stirred at room temperature for 3 hours. The reaction mixture was filtered and the filtrate diluted to 400 mL with diethyl ether. Anhydrous hydrogen chloride gas was bubbled into the dilute solution to give a precipitate of the hydrochloride salt of the title product, 3.96 g, m.p. 141°-143° C.

reactant | Methyl hydrazine | 37.6 mmol, 2 mL | CNN | CH6N2
reactant | N-(2,5-hexadiynyl)oxyphthalimide | 37.6 mmol, 9 g | C(C#CCC#C)ON1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO3
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | O-(2,5-Hexadiynyl)hydroxylamine hydrochloride | Cl.C(C#CCC#C)ON | InChI=1S/C6H7NO.ClH/c1-2-3-4-5-6-8-7;/h1H,3,6-7H2;1H
